US06462198B1
Pentanecarboxylic acid diphenylacetyl-amide
The title compound, white solid, m.p. 87° C. and MS: m/e=309 (M+) was prepared in accordance with the general method of example 39 from 2,2-diphenylacetamide and pentanecarboxylic acid chloride.

reactant | 2,2-diphenylacetamide | C1(=CC=CC=C1)C(C(=O)N)C1=CC=CC=C1 | C14H13NO
reactant | pentanecarboxylic acid chloride | C(CCCC)C(=O)Cl | C6H11ClO
product | Pentanecarboxylic acid diphenylacetyl-amide | C1(=CC=CC=C1)C(C(=O)NC(=O)CCCCC)C1=CC=CC=C1 | C20H23NO2
